US04024143
5-fluoro-6-hydroxy-5,6-dihydrouracil monohydrate, 8.3 g, was boiled under reflux with hexamethyldisilazane (47 ml) and chlorotrimethylsilane (0.5 ml) for 18 hours. Distillation of the resulting product under reduced pressure (0.35 mm Hg) produced bis-trimethylsilyl-5-fluorouracil, 9.5 g (60% yield, based on theory).

reactant | 5-fluoro-6-hydroxy-5,6-dihydrouracil monohydrate | O.FC1C(NC(NC1O)=O)=O
reactant | hexamethyldisilazane | 47 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | 0.5 ml | Cl[Si](C)(C)C | C3H9ClSi
product | bis-trimethylsilyl-5-fluorouracil | 60% yield | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)F | C10H19FN2O2Si2
